US07851490B2
N-{1-[3-(Thiazol-2-yl)-phenyl]-1H-benzoimidazol-5-ylmethyl}-formamide
A solution of C-[1-(3-thiazol-2-yl-phenyl)-1H-benzoimidazol-5-yl]-methylamine (1.4 g, 4.57 mmol) in formic acid (20 ml) was stirred at reflux for 3 hours. The mixture was evaporated in vacuo and the residue was partitioned between ethyl acetate and saturated, aqueous sodium carbonate. The organic layer was dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of dichloromethane and methanol (9:1 v/v) as the eluent to afford the desired product 0.5 g (33%). LC-ESI-HRMS of [M+H]+ shows 335.095 Da. Calc. 335.096657 Da. dev. −4.9 ppm.

reactant | C-[1-(3-thiazol-2-yl-phenyl)-1H-benzoimidazol-5-yl]-methylamine | 4.57 mmol, 1.4 g | S1C(=NC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)CN | C17H14N4S
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | N-{1-[3-(Thiazol-2-yl)-phenyl]-1H-benzoimidazol-5-ylmethyl}-formamide | 0.5 g, 33% | S1C(=NC=C1)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)CNC=O | C18H14N4OS
